US06703392B2
2-[(1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-ethoxy-benzyl)-acetamide:
prepared by reaction of (1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-ethoxy-benzylamine

reactant | (1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C[C@@H]2NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-ethoxy-benzylamine | C(C)OC1=C(CN)C=CC=C1 | C9H13NO
product | 2-[(1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-ethoxy-benzyl)-acetamide | COC=1C=C(C[C@@H]2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=C(C=CC=C2)OCC)C=CC1OC | C31H38N2O6
